US06531511B1
2-(3-Ethylphenyl)-2-adamantanemethanamine hydrochloride
A solution of 2-(3-ethylphenyl)-2-adamantanecarbonitrile (265 mg, 1 mmol) in dry THF (5 mL) under argon was treated with 1-M BH3 in THF (3.3 mL, 3.3 mmol), refluxed for 2 h, cooled to room temperature, treated with 6-M HCl (10 mL), refluxed for 0.25 h, cooled to room temperature and extracted with CHCl3 (2×10 mL). The combined extracts were washed with water (2×5 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; EtOAc-MeOH (9:1)] to give the title compound (258 mg, 85%) as a white solid: mp 89-90° C.; IR νmax (Nujol)/cm−1 3395, 2922, 1603, 1489, 1458, 1376, 1100, 797, 734 and 713; NMR δH (400 MHz, DMSO-d6) 1.19 (3H, d, J 7.5 Hz), 1.41-1.57 (2H, m), 1.60-1.75 (6H, m), 1.89 (1H, s), 2.06-2.15 (2H, m), 2.46-2.64 (5H, m), 3.05 (2H, s) and 7.02-7.33 (7H, m); Anal. Calcd for C19H28ClN.0.2 H2O: C, 73.74; H, 9.25; N, 4.53. Found: C, 73.90; H, 9.28; N, 4.53.

reactant | 2-(3-ethylphenyl)-2-adamantanecarbonitrile | 1 mmol, 265 mg | C(C)C=1C=C(C=CC1)C1(C2CC3CC(CC1C3)C2)C#N | C19H23N
reactant | HCl | 10 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3.3 mmol, 3.3 mL | C1CCOC1 | C4H8O
product | 2-(3-Ethylphenyl)-2-adamantanemethanamine hydrochloride | 258 mg, 85% | Cl.C(C)C=1C=C(C=CC1)C1(C2CC3CC(CC1C3)C2)CN | InChI=1S/C19H27N.ClH/c1-2-13-4-3-5-16(7-13)19(12-20)17-8-14-6-15(10-17)11-18(19)9-14;/h3-5,7,14-15,17-18H,2,6,8-12,20H2,1H3;1H
